US09260408B2
[2-(5-Bromo-pyridin-3-yloxy)-ethyl]carbamic acid tert-butyl ester
To a solution of 5-bromopyridin-3-ol (0.5 g, 2.87 mmol) in THF (30 mL) cooled to 0° C. were added triphenylphosphine (0.829 g, 3.16 mmol) and tert-butyl 2-hydroxyethylcarbamate (0.51 g, 3.16 mmol) in THF (5 mL) followed by di-(4-chlorobenzyl)azodicarboxylate (1.16 g, 3.16 mmol), added portionwise, and the reaction mixture was then stirred at room temperature over night. The mixture was diluted with EtOAc, poured into aq. NaHCO3 (50 mL) and the aqueous layer was extracted with EtOAc (2×100 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated. The residue was taken up in diethyl ether (50 mL) and left to stand in the fridge for 2 h. After this time, the solid precipitate was filtered off and the resulting filtrate evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 30% EtOAc-heptane gradient to give the title compound (0.57 g, 63%) as a white solid. MS: 317.0 and 319.0 (M+H+).

reactant | 5-bromopyridin-3-ol | 2.87 mmol, 0.5 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | triphenylphosphine | 3.16 mmol, 0.829 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 2-hydroxyethylcarbamate | 3.16 mmol, 0.51 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | di-(4-chlorobenzyl)azodicarboxylate | 3.16 mmol, 1.16 g | C1=CC(=CC=C1COC(=O)/N=N\C(=O)OCC2=CC=C(C=C2)Cl)Cl | C16H12Cl2N2O4
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [2-(5-Bromo-pyridin-3-yloxy)-ethyl]carbamic acid tert-butyl ester | 0.57 g, 63% | C(C)(C)(C)OC(NCCOC=1C=NC=C(C1)Br)=O | C12H17BrN2O3
